US07132425B2
A solution of methyl 5-chloropyrazine-2-carboxylate (2.0 g, 11.63 mmol) in 2-methoxyethanol (20 mL) was treated with solid potassium carbonate (4.8 g, 34.8 mmol). The mixture was heated at 95° C. and was stirred at this temperature for 4.5 h. The mixture was dissolved in water (20 mL) and extracted with diethyl ether. The aqueous layer was neutralized with a 1N aqueous hydrochloric acid solution and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo to afford 5-methoxyethoxypyrazine-2-carboxylic acid as a pale yellow solid powder: (1.89 g, 82.2%).

reactant | methyl 5-chloropyrazine-2-carboxylate | 11.63 mmol, 2.0 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | potassium carbonate | 34.8 mmol, 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethanol | 20 mL | COCCO | C3H8O2
solvent | water | 20 mL | O | H2O
product | 5-methoxyethoxypyrazine-2-carboxylic acid | COCCOC=1N=CC(=NC1)C(=O)O | C8H10N2O4
